US07807709B2
a. Dithiocarbonic acid O-(3-ethoxy-propyl) ester S-methyl ester
The title compound is prepared by the method described in Bull. Chem. Soc. Jpn. (2000), 73, 477f.: To a cooled solution of 3-ethoxy-1-propanol (24.4 g, 0.227 mol) in DMF (150 mL) is added NaH (60% dispersion in oil; 10.0 g, 0.250 mol) in portions over 1 hour, keeping the reaction temperature below 5° C. Stirring is continued for 5 hrs at room temperature, the mixture is cooled to 5 to 10° C. followed by dropwise addition of CS2 (27.5 mL, 0.454 mol). The mixture is gradually warmed to ambient temperature overnight and then cooled to <10° C. before adding iodomethane (17.9 mL, 0.284 mol). Stirring is continued for 18 hrs at room temperature, the mixture is then poured into ice-cold diluted aqueous HCl and extracted with diethyl ether. The combined organic layers are washed with brine, dried over MgSO4 and concentrated to give a yellow oil. Purification by flash chromatography on silica gel (hexane/AcOEt 20:1) gives the title compound as yellow liquid. TLC, Rf (hexane/AcOEt 3:1)=0.56. 1H-NMR (CDCl3): δ 1.23 (t, 3H), 2.11 (m, 2H), 2.60 (s, 3H), 3.52 (t, 2H), 3.58 (t, 2H), 4.79 (t, 2H) ppm.

reactant | 3-ethoxy-1-propanol | 0.227 mol, 24.4 g | C(C)OCCCO | C5H12O2
reactant | NaH | 0.250 mol, 10.0 g | [H-].[Na+]
reactant | CS2 | 0.454 mol, 27.5 mL | C(=S)=S | CS2
reactant | iodomethane | 0.284 mol, 17.9 mL | IC | CH3I
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | Dithiocarbonic acid O-(3-ethoxy-propyl) ester S-methyl ester | CSC(OCCCOCC)=S | C7H14O2S2
